US07973181B2
Stage 1: (S)-3-(4-Benzyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid cyclopentyl ester
To a solution of (S)-3-(4-Benzyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid (10 g, 26.9 mmol) in DMF (100 ml) was added cyclopentanol (4.6 g, 53.8 mmol) and DMAP (329 mg, 2.69 mmol). The solution was cooled down to 0° C. and EDC.HCl (5.4 g, 28.2 mmol) was added. The reaction mixture was then stirred at r.t. for 22 hours. Water (100 ml) and EtOAc (100 ml) were added and the phases were separated. The aqueous phase was extracted with EtOAc (2×80 ml). The organics were washed with water (3×50 ml) and brine (50 ml), then dried over magnesium sulfate, filtered and evaporated in vacuo. The crude product was purified on column (Heptane/EtOAc 7:3) to yield the title compound (8.09 g, 68.4%). LCMS purity 96.6%, m/z 462 [M++Na]+.

reactant | (S)-3-(4-Benzyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid | 26.9 mmol, 10 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C21H25NO5
reactant | cyclopentanol | 53.8 mmol, 4.6 g | C1(CCCC1)O | C5H10O
reactant | EDC.HCl | 28.2 mmol, 5.4 g | CCN=C=NCCCN(C)C.Cl
reactant | Water | 100 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 2.69 mmol, 329 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | (S)-3-(4-Benzyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid cyclopentyl ester | 8.09 g, 68.4% | C1(CCCC1)OC([C@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C26H33NO5
